US04914226
6-[(tert-butoxy)carbonyl]amino-2-ethoxycarbonyl-hexanoic acid ethyl ester
N-[(tert-butoxy)carbonyl]-4-chloro-butylamine (2.5 g, 0.012 mol) is then gradually added to the resulting mixture at room temperature. The reaction mixture is stirred at room temperature for 2 hours and at the reflux temperature for 6 hours, and then poured into ethyl acetate/water (1/1, v/v) (100 ml). The organic phase is separated, washed several times with water, and dried over MgSO4.

reactant | N-[(tert-butoxy)carbonyl]-4-chloro-butylamine | 0.012 mol, 2.5 g | C(C)(C)(C)OC(=O)NCCCCCl | C9H18ClNO2
reactant | ethyl acetate water | C(C)(=O)OCC.O
product | 6-[(tert-butoxy)carbonyl]amino-2-ethoxycarbonyl-hexanoic acid ethyl ester | C(C)OC(C(CCCCNC(=O)OC(C)(C)C)C(=O)OCC)=O | C16H29NO6
